US07981874B2
4-(Ethoxy-methyl-phosphinoylmethyl)-benzoic acid.
To a solution of 4-(ethoxy-methyl-phosphinoylmethyl)-benzoic acid methyl ester (660 mg, 2.58 mmol) in THF (5 mL) and MeOH (3 mL) was added 1N NaOH (2.58 mL, 2.58 mmol), and the mixture was stirred for 18 h. The mixture was diluted with H2O and washed with EtOAc. The aqueous layer was acidified with 1 N HCl, saturated with NaCl and extracted with a mixture of CHCl3 and MeOH, dried (MgSO4), and filtered. The solvent was evaporated under reduced pressure and the material was used without further purification. 1H NMR (CDCl3, 600 MHz) δ 7.98 (d, J=7.9 Hz, 2H), 7.34 (dd, J=7.9, 2.0 Hz, 2H), 4.12-4.03 (m, 2H), 3.26 (dd, J=25.2, 14.2 Hz, 1H), 3.23 (dd, J=25.2, 14.2 Hz, 1H), 1.44 (d, J=13.8 Hz, 3H), 1.30 (t, J=7.0 Hz, 3H). MS: cal'd 243 (MH+), exp 243 (MH+).

reactant | 4-(ethoxy-methyl-phosphinoylmethyl)-benzoic acid methyl ester | 2.58 mmol, 660 mg | COC(C1=CC=C(C=C1)C([PH2]=O)(C)OCC)=O | C12H17O4P
reactant | NaOH | 2.58 mmol, 1N, 2.58 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
solvent | H2O | O | H2O
product | 4-(Ethoxy-methyl-phosphinoylmethyl)-benzoic acid | C(C)OC(C1=CC=C(C(=O)O)C=C1)([PH2]=O)C | C11H15O4P
